US05231102
4-Chlorocarbonyl-5,7-dichloro-2-methoxycarbonylquinoline (1.5 g) was dissolved in dry tetrahydrofuran (20 ml) at 0° C. and an ice-cool solution of tetrahydrofuran (150 ml), presaturated with ammonia gas, was added in one portion. After stirring at room temperature for 30 minutes the white solid which precipitated was collected by filtration and dried (1.4 g). A portion of this solid (1 g) was suspended in glacial acetic acid (20 ml) and sodium cyanoborohydride (1.3 g) was added in portions. When the addition was complete the reaction mixture was heated at 50° C. for 2 h, cooled and stirred at room temperature for 14 h. The solution was diluted with dichloromethane (to a volume of 100 ml) and ice cold 50% sodium hydroxide solution added cautiously until a pH of 14 was attained. The organic layer was separated and the aqueous layer was re-extracted with dichloromethane (2×100 ml). The combined organic fractions were washed with brine (1×150 ml), dried (Na2SO4), filtered and concentrated in vacuo to give a residue which was purified by chromatrography on silica gel with 2% methanol in dichloromethane as eluent to give, as the less polar isomer, trans-4-aminocarbonyl-5,7-dichloro-2-methoxycarbonyl-1,2,3,4-tetrahydroquinoline (0.15 g, m.p. 217°- 229° C. [recrystallised from methanol]); δ (360 MHz, DMSO) 1.83 (1H, m, CHACHBHCCHD), 2.32 (1H, dm, J=13.2 Hz, CHACHBHCCHD), 3.72 (3H, s, CH3), 3.78 (1H, dd, J=5.8 and 2.0 Hz, CHACHBHCCHD), 4.01 (1H, dd, J=12.2 and 2.1 Hz, CHACHBHCCHD), 6.63 (1H, d, J=2.1 Hz, 6-H or 8-H), 6.66 (1H, br, s, NH), 6.78 (1H, d, J=2.1 Hz, 6-H or 8-H), 7.02 (1H, br, s, NH), 7.51 (1H, br, s, NH); m/e 302 (M+), 198 (100%, M-H, CONH2 and CO2CH 3); Found: C, 47.46; H, 3.95; N, 9.18 C12H12Cl2N2O3 requires C, 47.55; H, 3.99; N, 9.24%; and as the more polar isomer, cis-4-aminocarbonyl-5,7-dichloro-2-methoxycarbonyl-1,2,3,4-tetrahydroquinoline (0.14 g, m.p. 203°-204° C.); δ (360 MHz, DMSO), 2.05 (1H, m, CHACHBHCCHD), 2.52 (1H, m, CHACHBHCCHD), 3.54 (3H, s, CH3), 3.71 (1H, dd, J=7.2 and 3.4 Hz, CHACHBHCCHD), 4.11 (1H, dd, J=5.2 and 3.2 Hz, CHACHBHCCHD), 6.61 (1H, d, J=2.1 Hz, 6-H or 8-H), 6.70 (1H, d, J=2.1 Hz, 6-H or 8-H), 6.84 (2H, br, s, CONH2), 7.20 (1H, br, s, NH); m/e (CI+) 303 (M+1); Found: C, 47.38; H, 3.98; N, 9.14. C12H12Cl2N2O3 requires C, 47.55; H, 3.99; N, 9.24%.

reactant | 4-Chlorocarbonyl-5,7-dichloro-2-methoxycarbonylquinoline | 1.5 g | ClC(=O)C1=CC(=NC2=CC(=CC(=C12)Cl)Cl)C(=O)OC | C12H6Cl3NO3
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | trans-4-aminocarbonyl-5,7-dichloro-2-methoxycarbonyl-1,2,3,4-tetrahydroquinoline | 0.15 g | NC(=O)[C@H]1C[C@@H](NC2=CC(=CC(=C12)Cl)Cl)C(=O)OC | C12H12Cl2N2O3
